* Josephson flux shuttle shift register
*
* Warning:  This file probably requires WRspice-4.3.3 or later.

r1 1 2 100
r2 2 0 .4
r3 3 0 .4
r4 4 0 .4
r5 5 0 .4
r6 6 0 .4
r7 7 0 .4
r8 8 0 .4
r9 9 0 .4
r10 10 11 100
r20 20 21 100
r30 30 31 100

l1 2 3 3p
l2 3 4 3p
l3 4 5 3p
l4 5 6 3p
l5 6 7 3p
l6 7 8 3p
l7 8 9 3p

*readout

l1a 2 3 7p
l2a 3 4 7p
l3a 4 5 7p
l4a 5 6 7p
l5a 6 7 7p
l6a 7 8 7p
l7a 8 9 7p

lx1 200 201 3p
lx2 202 203 3p
lx3 204 205 3p
lx4 206 207 3p
lx5 208 209 3p
lx6 210 211 3p
lx7 212 213 3p

bx1 200 0 jj1 area=.25
bx2 201 0 jj1 area=.25
bx3 202 0 jj1 area=.25
bx4 203 0 jj1 area=.25
bx5 204 0 jj1 area=.25
bx6 205 0 jj1 area=.25
bx7 206 0 jj1 area=.25
bx8 207 0 jj1 area=.25
bx9 208 0 jj1 area=.25
bxa 209 0 jj1 area=.25
bxb 210 0 jj1 area=.25
bxc 211 0 jj1 area=.25
bxd 212 0 jj1 area=.25
bxe 213 0 jj1 area=.25

kx1 l1a lx1 .6
kx2 l2a lx2 .6
kx3 l3a lx3 .6
kx4 l4a lx4 .6
kx5 l5a lx5 .6
kx6 l6a lx6 .6
kx7 l7a lx7 .6

rx1 200 0 1
rx2 201 0 1
rx3 202 0 1
rx4 203 0 1
rx5 204 0 1
rx6 205 0 1
rx7 206 0 1
rx8 207 0 1
rx9 208 0 1
rxa 209 0 1
rxb 210 0 1
rxc 211 0 1
rxd 212 0 1
rxe 213 0 1

*rxx 215 204 50
*vx2 215 0 pulse(0 20m 20p 20p 20p 0p 50p)
*vx2 215 0 spulse(0 15m 50p 20p)
rxx 30 204 500
rxy 30 205 1000
****************

l10 11 12 3p
l11 12 13 3p
l12 13 0  3p
l20 21 22 3p
l21 22 0  3p
l30 31 32 3p
l31 32 0  3p

k1 l10 l1 .99
k2 l11 l4 .99
k3 l12 l7 .99
k4 l20 l2 .99
k5 l21 l5 .99
k6 l30 l3 .99
k7 l31 l6 .99

b1 2 0 100 jj1
b2 3 0 101 jj1
b3 4 0 102 jj1
b4 5 0 103 jj1
b5 6 0 104 jj1
b6 7 0 105 jj1
b7 8 0 106 jj1
b8 9 0 107 jj1

*v1 10 0 pulse(0 120m  25p 10p 10p 10p 120p)
*v2 20 0 pulse(0 120m  65p 10p 10p 10p 120p)
*v3 30 0 pulse(0 120m 105p 10p 10p 10p 120p)
*v4 1 0 pulse(0 40m 25p 10p 10p)

v1 10 0 spulse(0 120m 120p 25p)
v2 20 0 spulse(0 120m 120p 65p)
v3 30 0 spulse(0 120m 120p 105p)
v4 1 0 pulse(0 40m 15p 10p 10p 60p)

*v1 10 0 spulse(0 140m 240p 50p)
*v2 20 0 spulse(0 140m 240p 130p)
*v3 30 0 spulse(0 140m 240p 210p)
*v4 1 0 pulse(0 40m 30p 20p 20p 120p)

* Below,
* Level=1 selects the internal JJ model.
* Level=2 selects the example Verilog-A JJ model, if loaded (with
* the devload command).
*
.model jj1 jj(level=1)

.control
tran 0.2p 400p
plot v(1) v(2) v(3) v(4) v(5) v(6) v(7) ysep
edit
.endc
